US05294623
1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbaldehyde
3.03 g of ethyl 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarboxylate (prepared as described in preparation 8) were dissolved in 30 ml of toluene, under a stream of nitrogen, and the resulting solution was cooled at -68° C. 8.2 ml of a 1M solution of diisobutylaluminum hydride in hexane was then added dropwise to the cooled mixture over a period of 10 minutes, and the mixture was stirred for 1 hour at -68° C. At the end of this time, 2 ml of methanol and 3 ml of a saturated aqueous solution of ammonium chloride were added to the reaction solution. The mixture was then extracted with ethyl acetate, to give 2.47 g (yield 91%) of the title compound as an oil, whose properties were the same as those of the product of step (a).

reactant | ethyl 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarboxylate | 3.03 g | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)C(=O)OCC)C1=CC=C(C=C1)F | C23H27F2NO3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 2 ml | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbaldehyde | 2.47 g, yield 91% | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)C=O)C1=CC=C(C=C1)F | C21H23F2NO2
